US03963740
To a solution of 8-chloro-2-(2-(isopropylmethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole (0.19 g.) in acetone (3 ml.) was added 0.25 ml. of 30% aqueous hydrogen peroxide and the mixture was kept at room temperature for 4 days. The solid obtained on evaporation of the solution under reduced pressure was crystallized from ethanol-ether to give 8-chloro-2-(2-(isopropylmethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole N-oxide monohydrate, m.p 132° - 133° (decomp.).

reactant | 8-chloro-2-(2-(isopropylmethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole | 0.19 g | ClC1=CC2=C(C=C1)C1=NN(C=3C=CC(=C(C13)S2)C)CCN(C)C(C)C | C20H22ClN3S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 8-chloro-2-(2-(isopropylmethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole N-oxide monohydrate | O.ClC1=CC2=C(C=C1)C1=[N+](N(C=3C=CC(=C(C13)S2)C)CCN(C)C(C)C)[O-] | InChI=1S/C20H22ClN3OS.H2O/c1-12(2)22(4)9-10-23-16-8-5-13(3)20-18(16)19(24(23)25)15-7-6-14(21)11-17(15)26-20;/h5-8,11-12H,9-10H2,1-4H3;1H2
